US06995263B2
b] 5-Chloromethyl-2-(4-trifluoromethoxy-phenyl)-pyridine
[6-(4-Trifluoromethoxy-phenyl)-pyridin-3-yl]-methanol (0.40 g, 1.49 mmol) was dissolved in CH2Cl2 (7.2 ml) and treated dropwise at 0° C. with SOCl2 (0.22 ml, 2 eq.). The reaction mixture was kept at 0° C. for 5 min and at RT for 30 min. Pouring onto crashed ice/NaHCO3, twofold extraction with AcOEt, washing with water, drying over sodium sulfate, and evaporation of the solvents produced 0.419 g (1.46 mmol, 98%) of the title compound as off-white solid of mp. 34–36° C.

reactant | [6-(4-Trifluoromethoxy-phenyl)-pyridin-3-yl]-methanol | 1.49 mmol, 0.40 g | FC(OC1=CC=C(C=C1)C1=CC=C(C=N1)CO)(F)F | C13H10F3NO2
reactant | SOCl2 | 0.22 ml, 2 eq. | O=S(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 7.2 ml | C(Cl)Cl | CH2Cl2
product | 5-Chloromethyl-2-(4-trifluoromethoxy-phenyl)-pyridine | 1.46 mmol, 0.419 g, 98% | ClCC=1C=CC(=NC1)C1=CC=C(C=C1)OC(F)(F)F | C13H9ClF3NO
